US07820670B2
Step A: 3 -bromo-N-(2-methoxyethyl)imidazo [1,2-b]pyridazin-6-amine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 2-methoxyethylamine according to general procedure 1 providing the amino compound (432 mg, 74%) as a yellow solid; Rf=0.71 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.57 (d, J=9.7 Hz, 1H), 7.42 (s, 1H), 6.75 (d, J=9.7 Hz, 1H), 3.68 (t, J=5.4 Hz, 2H), 3.59 (t, J=5.6 Hz, 2H), 3.43 (s, 3H); ES-MS: (M+H)=271, 273 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 2-methoxyethylamine | COCCN | C3H9NO
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 3 -bromo-N-(2-methoxyethyl)imidazo [1,2-b]pyridazin-6-amine | BrC1=CN=C2N1N=C(C=C2)NCCOC | C9H11BrN4O
